US04602041
A solution of dimethyl sulphoxide (1.2 cm3) in dichloromethane (5 cm3) was added dropwise to a stirred solution of oxalyl chloride (0.7 cm3, 8.0 mmol) in dichloromethane (12 cm3) at -60° C. under nitrogen. After 10 mins at -60° C. a solution of 2,6-dichloro-4-nitrobenzylalcohol (1.53 g, 6.9 mmol) in dichloromethane (10 cm3) was added dropwise and the stirred mixture kept at -60° C. for 0.5 h. Triethylamine (4.6 cm3, 33 mmol) was then added and the mixture was allowed to warm to room temperature at which stage water (35 cm3) was added. The heterogeneous mixture was separated and the aqueous phase extracted with dichloromethane (35 cm3). The combined organic fractions were extracted with hydrochloric acid (2M, 60 cm3), then water (60 cm3), saturated sodium carbonate solution (60 cm 3), and finally water (60 cm3) then dried and evaporated under reduced pressure to give 2,6-dichloro-4-nitrobenzaldehyde as a pure oil which slowly solidified.

reactant | dimethyl sulphoxide | 1.2 cm3 | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 8.0 mmol, 0.7 cm3 | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2,6-dichloro-4-nitrobenzylalcohol | 6.9 mmol, 1.53 g | ClC1=C(CO)C(=CC(=C1)[N+](=O)[O-])Cl | C7H5Cl2NO3
reactant | Triethylamine | 33 mmol, 4.6 cm3 | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 12 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 10 cm3 | ClCCl | CH2Cl2
solvent | water | 35 cm3 | O | H2O
product | 2,6-dichloro-4-nitrobenzaldehyde | ClC1=C(C=O)C(=CC(=C1)[N+](=O)[O-])Cl | C7H3Cl2NO3
